US20010014737A1
f) Methyl (±)-8-methoxy-3-oxo-2,3,4,5-tetrahydro-1 H-2-benzazepine-4-acetate
A solution of methyl (±)-3-carbomethoxy-4-[2-(aminomethyl)-4-methoxyphenyl ]butanoate (10 g, 24 mmol) and triethylamine (17 mL, 120 mmol) in toluene (100 mL) was heated at reflux for 18 hr. The reaction was then concentrated and the residue was partitioned between ethyl acetate and water. The aqueous layer was extracted twice with ethyl acetate and the combined organic extracts were washed with brine, dried (MgSO4), and concentrated to afford the title compound (4.8 g, 76%) as tan solid: MS (ES) m/e 264.2 (M+H)+.

reactant | methyl (±)-3-carbomethoxy-4-[2-(aminomethyl)-4-methoxyphenyl ]butanoate | 24 mmol, 10 g | C(=O)(OC)C(CC(=O)OC)CC1=C(C=C(C=C1)OC)CN | C15H21NO5
reactant | triethylamine | 120 mmol, 17 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl (±)-8-methoxy-3-oxo-2,3,4,5-tetrahydro-1 H-2-benzazepine-4-acetate | 4.8 g, 76% | COC1=CC2=C(CC(C(NC2)=O)CC(=O)OC)C=C1 | C14H17NO4
